US07834030B2
4.0 g 1-Bromo-4-fluoro-2-vinyl-benzene and 1.87 g copper (I) cyanide were dissolved in 16 ml dimethylformamide and heated under microwave irradiation at 200° C. for 25 minutes. The cooled reaction mixture was poured into 200 ml 1 M HCl and extracted five times with portions of 60 ml ethyl acetate. The combined organic layers were washed with 100 ml 1 N HCl, dried over MgSO4, then the solvent was removed in vacuo and the resulting residue purified on silica gel with the eluent heptane=>n-heptane:ethyl acetate=6:1 to obtain 1.77 g 4-Fluoro-2-vinyl-benzonitrile as a solid.

reactant | 1-Bromo-4-fluoro-2-vinyl-benzene | 4.0 g | BrC1=C(C=C(C=C1)F)C=C | C8H6BrF
reactant | copper (I) cyanide | 1.87 g | [Cu]C#N
reactant | HCl | 1 M, 200 ml | Cl | ClH
solvent | dimethylformamide | 16 ml | CN(C=O)C | C3H7NO
product | 4-Fluoro-2-vinyl-benzonitrile | 1.77 g | FC1=CC(=C(C#N)C=C1)C=C | C9H6FN
